US08003806B2
(b) Methyl 3-(2-amino-4-nitroanilino)-3-(1,1′-biphenyl)-4-ylpropanoate
To a solution of methyl 3-(1,1′-biphenyl)-4-yl-3-(2,4-dinitroanilino)propanoate (320 mg, 760 μmol) in ethanol (3 mL) was added palladium on carbon (64 mg, 10% active Pd), ammonium formate (239 mg, 3.80 mmol) and water (1 mL). The solution was stirred at room temperature for 1.5 hour, and was then filtered through a pad of Celite®. The filter pad was washed with ethyl acetate, and the filtrate evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with dichloromethane, to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=3.44 min, MH+ 392].

reactant | methyl 3-(1,1′-biphenyl)-4-yl-3-(2,4-dinitroanilino)propanoate | 760 μmol, 320 mg | C1(=CC=C(C=C1)C(CC(=O)OC)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C1=CC=CC=C1 | C22H19N3O6
reactant | ammonium formate | 3.80 mmol, 239 mg | C(=O)[O-].[NH4+]
reactant | water | 1 mL | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 64 mg | [Pd] | Pd
product | Methyl 3-(2-amino-4-nitroanilino)-3-(1,1′-biphenyl)-4-ylpropanoate | NC1=C(NC(CC(=O)OC)C2=CC=C(C=C2)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C22H21N3O4
